US06824882B2
To a solution of 18.63 g of 1-(diethylphosphono)-6-(nonafluorobutyl)hexane in 100 mL of dichloromethane was added 16.8 g of bromotrimethylsilane. After 18 hr at room temperature, the solution was concentrated to a nearly colorless liquid, and the intermediate silylphosphonate ester was dissolved in 250 mL of methanol. The resultant solution was stirred at room temperature for 30 min and concentrated to a white solid. Dissolution in methanol and concentration were repeated two times, and two recrystallizations of the crude product from a 99:1 mixture of heptane and 2-propanol gave 12.50 g of 1-phosphono-6-(nonafluorobutyl)hexane (CF3(CF2)3(CH2)6PO3H2) as colorless leaves, m.p. 107-108° C.

reactant | 1-(diethylphosphono)-6-(nonafluorobutyl)hexane | 18.63 g | C(C)OP(=O)(OCC)CCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C14H22F9O3P
reactant | bromotrimethylsilane | 16.8 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-phosphono-6-(nonafluorobutyl)hexane | 12.50 g | P(=O)(O)(O)CCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C10H14F9O3P
